US06492370B1
(2S)-2-[3-(2-Hydroxyethyl)-3-isoamylureido]-N-methyl-3-phenylpropionamide (Compound No. 20-1)
In anhydrous tetrahydrofuran (7 ml) are suspended N-methyl-L-phenylalanine amide hydrochloride (Reference compound No. 8-2, 429 mg), 1,1′-carbonyldiimidazole (422 mg) and imidazole (136 mg) under a nitrogen atmosphere, and the suspension is stirred at room temperature for 20 minutes. A solution of N-(2-hydroxyethyl)isoamylamine (Reference compound No. 13-2, 525 mg) in anhydrous tetrahydrofuran (3 ml) is added to the reaction mixture, and the mixture is refluxed for 0.5 hour. The reaction mixture is concentrated under reduced pressure, a 10% aqueous citric acid solution is added to the concentrate, and the whole is extracted with ethyl acetate. The organic layer is washed with a 10% aqueous citric acid solution, water and saturated brine successively, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The resulting oily matter is purified by silica gel column chromatography to give 626 mg (93%) of the titled compound (Compound No. 20-1).

reactant | N-methyl-L-phenylalanine amide hydrochloride | Cl.CNC([C@@H](N)CC1=CC=CC=C1)=O
reactant | 1,1′-carbonyldiimidazole | 422 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | imidazole | 136 mg | N1C=NC=C1 | C3H4N2
reactant | N-(2-hydroxyethyl)isoamylamine | OCCNCCC(C)C | C7H17NO
solvent | tetrahydrofuran | 7 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
product | (2S)-2-[3-(2-Hydroxyethyl)-3-isoamylureido]-N-methyl-3-phenylpropionamide | 626 mg, 93% | OCCN(C(N[C@H](C(=O)NC)CC1=CC=CC=C1)=O)CCC(C)C | C18H29N3O3
